US05189047
a) 4-(3-Nitrophenyl)pyridine-N-oxide (D2a)
Aqueous hydrogen peroxide (27.5 wt. %, 6.4 ml) was added to a solution of 4-(3-nitrophenyl)pyridine (5 g) in glacial acetic acid (50 ml), and the mixture was heated to approx 70° C. overnight. The mixture was then evaporated and the residue was triturated with ether. The product (6 g), still containing some acetic acid, was used without further purification. Mp 193°-196° C.

reactant | hydrogen peroxide | 6.4 ml | OO | H2O2
reactant | 4-(3-nitrophenyl)pyridine | 5 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=NC=C1 | C11H8N2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(3-Nitrophenyl)pyridine-N-oxide | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=[N+](C=C1)[O-] | C11H8N2O3
